US08133995B2
Step 4: Preparation of 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbaldehyde
To a solution of THF (200 mL) was added 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile (1.00 g, 6.28 mmol). The solution was heated until all stalling material was in solution and was then cooled in an ice-water bath. 1M Diisobutylaluminum hydride in THF (50.3 mL, 50.3 mmol) was then added to the solution which was stirred for 1 h. EtOAc was added to the solution and it was then allowed to warm to it. Wet silica gel was carefully pipetted into the solution, and the reaction mixture was heated to 50° C. for 30 min, filtered through Celite, and washed with excess EtOAc. The solution was transferred to a separatory funnel and washed with water. The organic layer was collected, dried (MgSO4), filtered, and concentrated to dryness yielding 0.92 g of yellow solid (5.69 mmol, yield 91%). 1H-NMR (DMSO-d6) 9.91 (s, 1H) 7.92 (d, J=1.7 Hz, 1H), 8.14 (d, J=35.3 Hz, 2H), 7.89 (s, 1H), 7.30 (d, J=1.8 Hz, 1H); MS [M+H]+=163.3; LCMS RT=1.07 min.

reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile | 6.28 mmol, 1.00 g | NC1=NC=NN2C1=CC(=C2)C#N | C7H5N5
reactant | Diisobutylaluminum hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | THF | 50.3 mmol, 50.3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbaldehyde | 5.69 mmol, 0.92 g, yield 91% | NC1=NC=NN2C1=CC(=C2)C=O | C7H6N4O
